US03991050
Syringic acid was esterified by the Fischer Method using concentrated sulfuric acid as catalyst and a large excess of methanol to give a nearly quantitative yield of methyl syringate, m.p. 104°-106° C. after recrystallization from isopropanol and hexane.

reactant | Syringic acid | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)O | C9H10O5
reactant | methanol | CO | CH4O
catalyst | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | methyl syringate | quantitative yield | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)OC | C10H12O5
